US05663161
c. N-benzylbis (3-aminopropyl) amine
A mixture of 43.3 g (0.203 mol) of N-benzylbis (2-cyanoethyl)amine, 7.8 g of a 50% aqueous slurry of Raney nickel and 90 mL of a 1.4M solution of NaOH in 95% ethanol was hydrogenated in a Parr apparatus for 48 h. The catalyst was removed by filtration and washed with 80 mL of 95% ethanol. The combined filtrates were concentrated by rotary evaporation. A solution of the residue in 100 mL of hexane/chloroform (1:1, v/v) was dried over Na2SO4, filtered and concentrated by rotary evaporation. Removal of solvent residues under vacuum (0.5 mm) afforded 40.3 g (90%) of product as a yellow oil. 1H NMR (CDCl3 /TMS) δ 7.31 (m, 5 H), 3.52 (s, 2 H), 2.70 (t, J=6.8 Hz, 4 H), 2.45 (t, J=6.8 Hz, 4 H), 1.60 (quint., J=6.8 Hz, 4 H), 1.26 (s, 4 H). 13C NMR (CDCl3) δ 139.5, 128.3, 127.7, 126.3, 58.3, 50.9, 40.0, 30.6. IR (film, cm- 1) 3360 (br), 3270 (br), 3070 (w), 3050 (w), 3020 (m), 2920 (br. s), 2850 (s), 2800 (s), 1600 (s), 1485 (s), 1450 (s), 1360 (m), 1110 (br), 1070 (m), 1020 (m) 730 (m), 690 (m).

reactant | N-benzylbis (2-cyanoethyl)amine | 0.203 mol, 43.3 g | C(C1=CC=CC=C1)N(CCC#N)CCC#N | C13H15N3
reactant | NaOH | [OH-].[Na+]
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | N-benzylbis (3-aminopropyl) amine | 40.3 g, 90% | C(C1=CC=CC=C1)N(CCCN)CCCN | C13H23N3
